US06673797B1
(1) Preparation of 2-(2-Tetrahydrofuranyl)-5-methanesulfonyl-1-benzenesulfonylindole
To a solution of 1-benzenesulfonylamino-2-iodo-4-methanesulfonylbenzene (256 mg) in 1,4-dioxane (6 ml), 2-ethynyltetrahydrofuran (169 mg), bistriphenylphosphine palladium dichloride (21 mg), cuprous iodide (11 mg) and triethylamine (89 mg) were added successively and the mixture was stirred in a sealed tube at 60° C. for 3 hours. After cooling, the reaction solution was poured into water, extracted with dichloromethane, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The resulting residue was separated using silica gel preparative thin-layer chromatography (hexane:ethyl acetate=1:1) to obtain 218 mg of the desired product in a white amorphous form.

reactant | 1-benzenesulfonylamino-2-iodo-4-methanesulfonylbenzene | 256 mg | C1(=CC=CC=C1)S(=O)(=O)NC1=C(C=C(C=C1)S(=O)(=O)C)I | C13H12INO4S2
reactant | 2-ethynyltetrahydrofuran | 169 mg | C(#C)C1OCCC1 | C6H8O
reactant | triethylamine | 89 mg | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | 1,4-dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | 2-(2-Tetrahydrofuranyl)-5-methanesulfonyl-1-benzenesulfonylindole | 218 mg | O1C(CCC1)C=1N(C2=CC=C(C=C2C1)S(=O)(=O)C)S(=O)(=O)C1=CC=CC=C1 | C19H19NO5S2
